US07612211B2
B. 5-bromo-2-(chloro-difluoro-methyl)-benzoimidazole-1-carboxylic acid tert-butyl ester
A mixture of 5-bromo-2-(chloro-difluoro-methyl)-1H-benzoimidazole (0.754 g, 2.68 mmol), Boc2O (1.170 g, 5.36 mmol), Et3N (2.2 mL, 8.04 mmol), and DMAP (0.07 g, 0.268 mmol) in CH2Cl2 (8 mL) was stirred for 1 hour. The reaction mixture was concentrated, and the residue was purified by chromatography (silica, hexanes: EtOAc, 8:1) to afford the title compound as a colorless oil (1.002 g, 98%).

reactant | 5-bromo-2-(chloro-difluoro-methyl)-1H-benzoimidazole | 2.68 mmol, 0.754 g | BrC1=CC2=C(NC(=N2)C(F)(F)Cl)C=C1 | C8H4BrClF2N2
reactant | Boc2O | 5.36 mmol, 1.170 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Et3N | 8.04 mmol, 2.2 mL | CCN(CC)CC | C6H15N
catalyst | DMAP | 0.268 mmol, 0.07 g | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | CH2Cl2 | 8 mL | C(Cl)Cl | CH2Cl2
product | 5-bromo-2-(chloro-difluoro-methyl)-benzoimidazole-1-carboxylic acid tert-butyl ester | 1.002 g, 98% | C(C)(C)(C)OC(=O)N1C(=NC2=C1C=CC(=C2)Br)C(F)(F)Cl | C13H12BrClF2N2O2
